US09290451B2
5-Bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 9 d) and (S)-2-amino-3-cyclopropyl-propionamide (CAN 156077-93-9) as starting materials, MS (EI): m/e=382.0 [M+H]+.

reactant | 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
reactant | (S)-2-amino-3-cyclopropyl-propionamide | N[C@H](C(=O)N)CC1CC1 | C6H12N2O
product | 5-Bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide | C(N)(=O)[C@H](CC1CC1)NC(=O)C1=NC(=C(C=C1)Br)OCC1CC1 | C16H20BrN3O3
